US05118599
N-(5-NITRO-2METHOXYPHENYL)-2,2,5-TRIMETHYL-β-OXO-1,3-DIOXANE-5-PROPANAMIDE
2-Methoxy-5-nitroaniline (63 parts) and methyl 2,2,5-trimethyl-β-oxo-1,3-dioxane-5-propanoate (90 parts) are dispersed in n-octane (500 parts) and m-xylene (100 parts). The mixture is stirred vigorously while methanol is removed by a slow distillation under an inert atmosphere. Additional m-xylene is added as needed to replenish the reaction solvent as it co-distills with methanol of reaction. After the solution is allowed to cool slowly with vigorous stirring, a yellow-orange solid resulted, ca. 2 hr. The precipitate is dissolved in ethyl ether and the ethereal solution extracted with dilute hydrochloric acid, washed once with dilute sodium bicarbonate, once with water, the organic layer separated from the aqueous layer, dried and the excess solvent removed in vacuo. The residue is recrystallized from ethyl alcohol, m.p. 113-115° C. Proton NMR and combustion analysis were consistent with those values predicted for the desired product. Combustion Analysis for C17H22N2O7 --Calculated: C, 55.7%; H, 6.1%; N, 7.7%. Found: C, 55.6%; H, 6.1%; N, 7.5%.

reactant | 2-Methoxy-5-nitroaniline | COC1=C(N)C=C(C=C1)[N+](=O)[O-] | C7H8N2O3
reactant | methyl 2,2,5-trimethyl-β-oxo-1,3-dioxane-5-propanoate | CC1(OCC(CO1)(C(CC(=O)OC)=O)C)C | C11H18O5
reactant | methanol | CO | CH4O
solvent | n-octane | CCCCCCCC | C8H18
solvent | m-xylene | C1(=CC(=CC=C1)C)C | C8H10
solvent | ethyl ether | C(C)OCC | C4H10O
product | N-(5-NITRO-2METHOXYPHENYL)-2,2,5-TRIMETHYL-β-OXO-1,3-DIOXANE-5-PROPANAMIDE | [N+](=O)([O-])C=1C=CC(=C(C1)NC(CC(C1(COC(OC1)(C)C)C)=O)=O)OC | C17H22N2O7
